US08685977B2
4-chloro-2-(trifluoromethoxy)phenol
A solution of copper(II)chloride dihydrate (37.2 mmol, 6.34 g) and lithium chloride (18.6 mmol, 788 mg) in DMF (60 mL) was heated to 80° C. before the addition of 2-(trifluoromethoxy)phenol (18.6 mmol, 4 g) dropwise. The reaction was stirred at 100° C. for 72 hours. After cooling, the reaction mixture was partitioned between EtOAc (60 mL) and water (120 mL), extracted with EtOAc (60 mL). The organic layer was washed with water (60 mL), dried over MgSO4, filtered and concentrated in vacuo. The crude material was purified by silica gel column chromatography, eluting product with a gradient of 0-100% DCM in heptane to yield the title compound as a waxy solid (637 mg, 10%). This was used in the next step with no further purification.

reactant | lithium chloride | 18.6 mmol, 788 mg | [Cl-].[Li+]
reactant | 2-(trifluoromethoxy)phenol | 18.6 mmol, 4 g | FC(OC1=C(C=CC=C1)O)(F)F | C7H5F3O2
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
catalyst | copper(II)chloride dihydrate | 37.2 mmol, 6.34 g | O.O.[Cu](Cl)Cl
product | 4-chloro-2-(trifluoromethoxy)phenol | ClC1=CC(=C(C=C1)O)OC(F)(F)F | C7H4ClF3O2
